US09238644B2
(b) 1-(2-(2-(5-Methyl-2-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide (A44)
A solution of tert-butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate A43 (0.113 g, 0.207 mmol) in DCM (10 mL) was treated with TFA (0.32 mL, 4.1 mmol) and stirred for 20 hours at room temperature. The volatiles were evaporated in vacuo and aq. NaOH (2 M, 40 mL) was added to the residue. The aqueous phase was extracted with EtOAc (3×40 mL) and the combined organics were washed with brine and dried over MgSO4. The solvent was removed in vacuo and the solid was suspended in DCM. Cyclohexane was added and the suspension was sonicated for 10 minutes. The solid was isolated by vacuum filtration to give the title compound A44 as an off-white solid (0.066 g, 72%). LCMS-D: rt 2.88 min; m/z 446 [M+H]+.

reactant | tert-butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-methylpyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2C)NC=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C30H39N7O3
reactant | TFA | 4.1 mmol, 0.32 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(2-(5-Methyl-2-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | CC=1C(=NC(=NC1)NC=1C=NN(C1)C1CCNCC1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N | C25H31N7O
